US07109354B2
a) 4-(6-Amino-5-o-tolyl-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid methyl ester
The procedure as in Example 1: step c was followed using 4-(6-Amino-5-bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid methyl ester (25 mg, 0.06 mmol, Example 124: step a), 2-methyl phenyl boronic acid (33 mg, 0.25 mmol), Pd(PPh3)4 (14 mg, 0.01 mmol), aqueous Na2CO3 (2M, 400 μL, 0.5 mmol), ethanol (400 μL) and toluene (800 μL). The reaction was heated to 80° C. for 12 hours. The residue was dissolved into EtOAc and washed with brine. The organic layers were dried (MgSO4) and removal of the solvents in vacuo was followed by preparative SiO2 TLC purification (20% MeOH in DCM) that yielded the title compound (7.4 mg, 29%) as a white solid. ESI-MS (m/z): Calcd. for C19H18N2O4S3: 420.0 (M+1) found: 420.2.

reactant | 4-(6-Amino-5-bromo-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=C(C1)S(=O)(=O)C=1C=NC(=C(C1)Br)N)SC | C12H11BrN2O4S3
reactant | 2-methyl phenyl boronic acid | 0.25 mmol, 33 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | Na2CO3 | 0.5 mmol, 2M, 400 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 400 μL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.01 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 800 μL | C1(=CC=CC=C1)C | C7H8
product | 4-(6-Amino-5-o-tolyl-pyridine-3-sulfonyl)-5-methylsulfanyl-thiophene-2-carboxylic acid methyl ester | 7.4 mg, 29% | COC(=O)C=1SC(=C(C1)S(=O)(=O)C=1C=NC(=C(C1)C1=C(C=CC=C1)C)N)SC | C19H18N2O4S3
